US04220644
Methyl 10-carboxydecyldithiocarbamate (28 g., 0.096 mol.) was reacted with 6.5 g. (0.1 mol.) of sodium azide according to the procedure described in Example 7. Acidification upon work-up gave 1-(10-carboxydecyl)tetrazole-5-thiol as a white precipitate, m.p. 95°-98°.

reactant | Methyl 10-carboxydecyldithiocarbamate | 0.096 mol, 28 g | C(=O)(O)CCCCCCCCCCNC(SC)=S | C13H25NO2S2
reactant | sodium azide | 0.1 mol | [N-]=[N+]=[N-].[Na+]
product | 1-(10-carboxydecyl)tetrazole-5-thiol | C(=O)(O)CCCCCCCCCCN1N=NN=C1S | C12H22N4O2S
